US07528136B2
To a solution of 4-azido-1-benzyl-pyrrolidine-2-carboxylic acid methyl ester (6 g, 23 mmol) in THF (100 ml) under N2 was added triphenylphosphine (12.08 g, 46 mmol) and water (1.036 mL, 57.56 mmol). The mixture was refluxed with stirring for 6 h. After removal of THF, the residue was dissolved in Et2O, treated with 0.15N aqueous HCl, stirred for 5 min, and extracted with Et2O (2×150 ml). The aqueous solution was then treated with 10% NaHCO3 until PH>10, and extracted by DCM (2×100 ml). The combined organic phases were dried over anhydrous NaSO4, concentrated to afford product 4-amino-1-benzyl-pyrrolidine-2-carboxylic acid methyl ester 4.6 g (85%) as colorless oil. MS m/e=235.3 [M+H]+.

reactant | 4-azido-1-benzyl-pyrrolidine-2-carboxylic acid methyl ester | 23 mmol, 6 g | COC(=O)C1N(CC(C1)N=[N+]=[N-])CC1=CC=CC=C1 | C13H16N4O2
reactant | triphenylphosphine | 46 mmol, 12.08 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | water | 57.56 mmol, 1.036 mL | O | H2O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | 4-amino-1-benzyl-pyrrolidine-2-carboxylic acid methyl ester | 4.6 g, 85% | COC(=O)C1N(CC(C1)N)CC1=CC=CC=C1 | C13H18N2O2
